### PR TITLE
Contrib bigop

### PR DESCRIPTION
**Pull request by pPomCo**
##### Motivation for this change

Add some new lemmas and generalize big_set0 to any op/idx

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
- [ ] ~added corresponding documentation in the headers~
- [x] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)

##### Compatibility with MathComp 1.X

- [ ] ~I added the label `TODO: MC-1 port` to make sure someone ports this PR to
      the `mathcomp-1` branch **or** I already opened an issue or PR (please cross reference).~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) and put a milestone if possible.

### CODE REVIEW

**Comment by Tragicus** [comment]
Hello pPomCo. Thank you for the contribution. I will do a first review. Apart from a few specific comments (to come), the only issues I see are the spacing conventions and the statements of equalities. For the former, I think the general rule is that there are spaces around symbols like `:`, `=>`, `/=` and `//`, except when they follow immediately a tactic, as in `move=>` (also, `case` and `apply` always come with a colon (except for `apply/H`)). For the latter, if the equality is too long for one line, it seems that the rule is to put the `=` at the end of the first line. As for whether the second line should be indented, the library does not seem consistent. so I guess you can choose.

File: mathcomp/ssreflect/bigop.v [hunk 1]
```diff
@@ -2399,6 +2437,20 @@ Lemma bigA_distr_bigA (I J : finType) F :
     = \big[+%M/0]_(f : {ffun I -> J}) \big[*%M/1]_i F i (f i).
 Proof. by rewrite bigA_distr_big; apply: eq_bigl => ?; apply/familyP. Qed.
 
+Lemma partition_big_distrl (I J : finType) (P : pred J)
+                           (h : I -> J) (f : I -> R) (g : J -> R) :
+    \big[+%M/0]_(A | P (h A)) (f A * g (h A))
+    = \big[+%M/0]_(B | P B) (\big[+%M/0]_(A | h A == B) f A * g B).
```
Comment (Tragicus) [inline mathcomp/ssreflect/bigop.v:2443]:
```suggestion
Lemma partition_big_distrl I (s : seq I)
      (J : finType) (P : pred I) (p : I -> J) (Q : pred J) F G :
  (forall i, P i -> Q (p i)) ->
  \big[+%M/0]_(i <- s | P i) (F i * G (p i)) =
  \big[+%M/0]_(j : J | Q j) (\big[+%M/0]_(i <- s | (P i) && (p i == j)) F i * G j).
```
This looks like a refinement of `partition_big`, so it should have a similar statement (and it is more general this way). You can also add a `partition_big_distrr`.

File: mathcomp/ssreflect/bigop.v [hunk 2]
```diff
@@ -2399,6 +2437,20 @@ Lemma bigA_distr_bigA (I J : finType) F :
...
+Proof.
+under [RHS]eq_bigr do rewrite big_distrl /=.
+rewrite [LHS](partition_big h P) => //.
+apply: eq_bigr => B HB ; apply: eq_big => [A | A /andP [_ HA2]].
+- case (boolP (h A == B)) => H; last by rewrite andbF.
+  by rewrite (eqP H) HB.
+- by rewrite (eqP HA2).
```
Comment (Tragicus) [inline mathcomp/ssreflect/bigop.v:2450]:
```suggestion
under [RHS]eq_bigr do rewrite big_distrl /=.
rewrite (partition_big p Q) //.
by apply: eq_bigr => b Qb; apply: eq_big => a // /andP [_] /eqP ->.
```
With the new statement of `partition_big_distrl`,  the proof could look like this. In any case, some variables are not informative enough (e.g. H), and base objects (i.e. those that are not types and to some extent functions) should use small letters.

File: mathcomp/ssreflect/finset.v [hunk 3]
```diff
@@ -1369,6 +1369,29 @@ Arguments imsetP {aT rT f D y}.
 Arguments imset2P {aT aT2 rT f2 D1 D2 y}.
 Arguments imset_disjoint {aT rT f A B}.
 
+Section BigOpsAnyOp. (* Any operator op : R -> R -> R *)
+Variables (R : Type) (x : R).
+Variables (op : R -> R -> R).
+Variables I J : finType.
```
Comment (Tragicus) [inline mathcomp/ssreflect/finset.v:1375]: I and J could have `Implicit Type`s since they are not used in all lemmas (as you did with the following constants).

File: mathcomp/ssreflect/finset.v [hunk 4]
```diff
@@ -1369,6 +1369,29 @@ Arguments imsetP {aT rT f D y}.
...
+
+Lemma big_set0 F : \big[op/x]_(i in set0) F i = x.
+Proof. by apply big_pred0=>i ; rewrite inE. Qed.
+
+Lemma big_set1E j F : \big[op/x]_(i in [set j]) F i = op (F j) x.
+Proof. by rewrite -big_pred1_eq_id; apply: eq_bigl=>i; exact: in_set1. Qed.
+
+Lemma big_condT A F :
+  \big[op/x]_(i in A | true) F i = \big[op/x]_(i in A) F i.
+Proof. by apply: eq_bigl=>i ; by rewrite andbT. Qed.
```
Comment (Tragicus) [inline mathcomp/ssreflect/finset.v:1389]: This is already in bigop.v, so it should not need to be here too.

File: mathcomp/ssreflect/finset.v [hunk 5]
```diff
@@ -1456,6 +1520,82 @@ Lemma partition_big_imset h (A : {pred I}) F :
      \big[aop/idx]_(j in h @: A) \big[aop/idx]_(i in A | h i == j) F i.
 Proof. by apply: partition_big => i Ai; apply/imsetP; exists i. Qed.
 
+Lemma big_subsetI A B (F : {set I} -> R) :
+  aop (\big[aop/idx]_(C : {set I} | (C \subset A) && ~~(C \subset B)) F C)
+      (\big[aop/idx]_(C : {set I} | C \subset A :&: B) F C)
+  = \big[aop/idx]_(C : {set I} | C \subset A) F C.
+Proof.
+rewrite [E in _=E](bigID (fun C : {set I} => C \subset B)) [E in _=E]Monoid.mulmC.
```
Comment (Tragicus) [inline mathcomp/ssreflect/finset.v:1528]:
```suggestion
rewrite [RHS](bigID (fun C : {set I} => C \subset B)) [RHS]Monoid.mulmC.
```
golfing

File: mathcomp/ssreflect/finset.v [hunk 6]
```diff
@@ -1456,6 +1520,82 @@ Lemma partition_big_imset h (A : {pred I}) F :
...
+by congr (aop _ _); apply: eq_bigl=>/=C; exact: subsetI.
+Qed.
+
+Lemma big_partitionS (f : {set I} -> I -> R) :
+  \big[aop/idx]_(A : {set I}) (\big[aop/idx]_(i in A) f A i)
+  = \big[aop/idx]_(i : I) \big[aop/idx]_(A : {set I} | i \in A) f A i.
```
Comment (Tragicus) [inline mathcomp/ssreflect/finset.v:1534]: The name does not fit, there is no partition involved.
Besides, this should be generalized to permuting any two bigops (I am actually surprised that it is not already in the library, @ Very Informed Person?).

File: mathcomp/ssreflect/finset.v [hunk 7]
```diff
@@ -1456,6 +1520,82 @@ Lemma partition_big_imset h (A : {pred I}) F :
...
+      by rewrite -Hcontra HB in HA.
+  + rewrite /f1/f2 => /= /andP [Hx Hinv].
+    move: Hinv ; rewrite /f2inv.
+    case (boolP (x\in A)) => H ; last by rewrite Hx in H.
+    by move/eqP ; case => ->.
+- rewrite /omap/obind/oapp/f2inv => x Hx.
+  by case (boolP (x \in A)) => // ; rewrite Hx.
+rewrite proof2 proof1.
+rewrite -[LHS](partition_big f1 (P:=predT) predT)=> //.
+by rewrite -[RHS](partition_big f2 (P:=predT) predT)=> //.
```
Comment (Tragicus) [inline mathcomp/ssreflect/finset.v:1596]:
```suggestion
under eq_bigr do rewrite big_mkcond.
under [LHS]eq_bigr do rewrite big_mkcond.
do 2 rewrite pair_bigA_idem ?Monoid.op1m //.
rewrite (reindex (fun x => (x.2, x.1))) //=.
by exists (fun x => (x.2, x.1)) => -[]. 
```
Now I feel bad, because you probably spent a lot of time on this one and had some very good ideas, but it so happens that there is a trick that trivialises it.

Comment (CohenCyril) [reply mathcomp/ssreflect/finset.v:1596]: I will probably make you feel worse, but this 
`exchange_big_dep predT`

File: mathcomp/ssreflect/bigop.v [hunk 8]
```diff
@@ -2077,6 +2091,30 @@ End Abelian.
...
+Variable idx : R.
+Local Notation "1" := idx.
+
+Section Plain.
+Variable op : Monoid.law 1.
+Local Notation "*%M" := op (at level 0).
+Local Notation "x * y" := (op x y).
+
+Lemma big_eq1F (I : finType) r (P : pred I) F :
+  \big[op/idx]_(i <- r | P i) F i != idx -> exists i, [&& i \in r, P i & F i != idx].
```
[the remark this answers is not in the document]
Comment (CohenCyril) [reply mathcomp/ssreflect/bigop.v:2106]: Indeed, but it's a contrapositive invoving "~ forall -> exists", which is only valid constructively when the indexes range in a fintype, which is exactly the case here.
Maybe this calls for a lemma in fintype `contra_Nexists` etc. More generally, this calls for a modularization of `contar` as advocated in https://github.com/math-comp/math-comp/issues/579

File: mathcomp/ssreflect/finset.v (hunk 6 above)
Comment (Tragicus) [reply mathcomp/ssreflect/finset.v:1534]: According to the discussion on the next comment, `big_partitionS` is probably not useful, as it is covered by `big_exchange_dep`.

File: mathcomp/ssreflect/finset.v (hunk 3 above)
Comment (CohenCyril) [reply mathcomp/ssreflect/finset.v:1375]: Here I think it makes sense to keep them as variables (otherwise the following implicit type declaration will fail). Moreover section discharge will take care of removing unused variables.

**Comment by CohenCyril** [comment]
Hi @pPomCo do you intend to follow up on this? If not that's ok, we will finish this.

**Comment by pPomCo** [comment]
Hi,

I was very busy last months, that's why the PR was asleep.
I will have some time available now so I will follow this PR and I hope I can commit on it next month.
Anyway, if you want to improve it, feel free to commit any change you like.

pPomCo

**Comment by CohenCyril** [comment]
@pPomCo should we take over?

**Comment by CohenCyril** [comment]
@erikmd @pPomCo should we take over?

**Comment by pPomCo** [comment]
Hi,
Thanks for asking! Of course, feel free to take over — I haven’t had a chance to work on it at all.
